US05488055
A mixture of N-(1-ethylpyrazol-5-yl)-5-bromoanthranilic acid (12.6 g) and POCl3 (30 ml) was refluxed overnight. The reaction mixture was poured into ice-water (500 ml), stirred for 20 minutes, and then NH4OH was added until a pH of 8-10 was obtained. The mixture was stirred for 0.5 hours and then the solid which formed was collected by filtration. The solid was dissolved in CH2Cl2, dried over MgSO4 and purified by column chromatography on silica gel eluting with 30% hexane/ethyl acetate to afford 6.5 g of 1-ethyl-4-chloro-6-bromo-1H-pyrazolo[3,4-b]quinoline, m.p. 117°-118° C.

reactant | N-(1-ethylpyrazol-5-yl)-5-bromoanthranilic acid | 12.6 g | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)Br | C12H12BrN3O2
reactant | POCl3 | 30 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NH4OH | [NH4+].[OH-]
product | 1-ethyl-4-chloro-6-bromo-1H-pyrazolo[3,4-b]quinoline | 6.5 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2Cl)Br | C12H9BrClN3
